US07863283B2
(RS)-N-(Ethoxycarbonyl)-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide
4-(Isopropylamino)-6-methoxyquinazolin-7-ol (65 mg, 0.21 mmol) and (RS)-S-[3-(bromomethyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide (102 mg, 0.27 mmol) are suspended in 14 ml of acetone. After addition of caesium carbonate (2427 mg, 0.74 mmol), the reaction mixture is stirred at reflux for 3 hours. After cooling, the batch is concentrated, the residue is taken up in ethyl acetate, and the organic phase is washed with water and dried over sodium sulphate. After removal of the solvent, the residue (144 mg, 97% of theory) is employed in the next reaction without further purification.

reactant | 4-(Isopropylamino)-6-methoxyquinazolin-7-ol | 0.21 mmol, 65 mg | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)OC)O | C12H15N3O2
reactant | (RS)-S-[3-(bromomethyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.27 mmol, 102 mg | BrCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C | C11H14BrNO3S
reactant | caesium carbonate | 0.74 mmol, 2427 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 14 ml | CC(=O)C | C3H6O
product | (RS)-N-(Ethoxycarbonyl)-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide | C(C)OC(=O)N=S(=O)(C)C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC(C)C)OC | C23H28N4O5S
